US07435837B2
(±)-{[7-(2,3-dimethoxyphenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.103 g, 74%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(2,3-dimethoxyphenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.18 g, 0.39 mmol) and methylamine (0.139 g, 3.9 mmol). mp 85-89° C.

reactant | (±)-[7-(2,3-dimethoxyphenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.39 mmol, 0.18 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C(=CC=C2)OC)OC)F | C24H23FO6S
reactant | methylamine | 3.9 mmol, 0.139 g | CN | CH5N
product | (±)-{[7-(2,3-dimethoxyphenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | COC1=C(C=CC=C1OC)C1=CC(=CC=2CC(OC21)CNC)F | C18H20FNO3
